US05672588
(R)-2-Amino-1-propanol (0.23 g, 3.0 mmol), 9-(2,3,5-tri- O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine (1.7 g, 2.7 mmol) and triethylamine (0.30 g, 3.0 mmol) were dissolved in dioxan (20 ml) and stirred for 200 h at room temperature. Following purification by column chromatography, the resultant 2',3',5'-tri- O-benzoyl-2-chloro- N-[(R)-1-hydroxy-2-propyl]adenosine was deprotected using methanolic ammonia to provide the title 2-chloro- N-[(R)-1-hydroxy-2-propyl]adenosine as an amorphous foam (0.5 g, 54%), 1H NMR (DMSO-d6)δ 1.17 (3H, d, --CH3), 3.35-3.72 (4H, m, H-5'a, H-5'b and --CH2 --), 3.96 (1H, q, H-4'), 4.14 (1H, m, H-3'), 4.52 (1H, dd, H-2'), 5.08 (1H, t, 5'-OH), 5.22, 5.49 (2H, 2d, 2' and 3'-OH), 5.83 (1H, d, H-1'), 8.0 (1H, d, N--H) 8.40 (1H, s, H-8).

reactant | (R)-2-Amino-1-propanol | 3.0 mmol, 0.23 g | N[C@@H](CO)C | C3H9NO
reactant | 9-(2,3,5-tri- O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine | 2.7 mmol, 1.7 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C31H22Cl2N4O7
reactant | triethylamine | 3.0 mmol, 0.30 g | C(C)N(CC)CC | C6H15N
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 2-chloro- N-[(R)-1-hydroxy-2-propyl]adenosine | 0.5 g, 54% | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N[C@@H](CO)C | C13H18ClN5O5
